US04437877
A solution of 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate (2.3 g) in chlorobenzene (10 ml) was added to a 2% aqueous solution of sodium hydroxide (25 ml) containing pipecolic acid (1.3 g), and the mixture was stirred at room temperature (ca. 20° C.) for 3 hours. After allowed to stand overnight, the precipitated crystals were collected by filtration and washed with ether. The crystals were combined with water (20 ml) and adjusted to pH 2 or less with hydrochloric acid, followed by reflux for 3 hours. After allowed to cool, the mixture was extracted with ether, dried and concentrated. The residue was purified by silica gel chromatography to give 0.6 g of 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-1,3(2H,8aH)-dione (Compound No. 7). M.P. 60.5°-64.5° C.

reactant | 4-chloro-2-fluoro-5-isopropoxyphenyl isocyanate | 2.3 g | ClC1=CC(=C(C=C1OC(C)C)N=C=O)F | C10H9ClFNO2
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
reactant | pipecolic acid | 1.3 g | N1C(C(=O)O)CCCC1 | C6H11NO2
solvent | chlorobenzene | 10 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine-1,3(2H,8aH)-dione | 0.6 g | ClC1=CC(=C(C=C1OC(C)C)N1C(N2C(CCCC2)C1=O)=O)F | C16H18ClFN2O3
